US08475937B2
2-Allylthiophene (25 g), 13 g of anhydrous toluene (13 g), and 250 mg of Platinum Catalyst were combined under nitrogen in a three-neck flask equipped with a reflux condenser and a dropping funnel. Then, 30 g of trichlorosilane was added drop-wise to the mixture. Upon completion of the addition, the mixture was heated to 60° C. and maintained at that temperature for 2 h. Then, the mixture was distilled at 150° C. and 0.02 ton to give 2-(3-trichlorosilylpropyl)thiophene as a colorless liquid: 1H NMR (CDCl3) δ 7.16 (dd, 1H, J=5.1, 0.9 Hz); 6.95 (dd, 1H, J=4.8, 3.3 Hz); 6.83 (m, 1H); 2.96 (t, 2H, J=7.2 Hz); 1.98 (m, 2H); 1.46 (m, 2H).

reactant | 2-Allylthiophene | 25 g | C(C=C)C=1SC=CC1 | C7H8S
reactant | trichlorosilane | 30 g | Cl[SiH](Cl)Cl | Cl3HSi
catalyst | Platinum | 250 mg | [Pt] | Pt
solvent | toluene | 13 g | C1(=CC=CC=C1)C | C7H8
product | 2-(3-trichlorosilylpropyl)thiophene | Cl[Si](CCCC=1SC=CC1)(Cl)Cl | C7H9Cl3SSi
